* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1764-0.9.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N004 0 1µ
V1 IN 0 1.3
R2 N001 IN 50K
C3 N002 0 1µ
R1 OUT 0 .6
C4 OUT 0 10µ
C2 N003 0 10n
X§U1 N002 IN IN OUT OUT N001 0 N003 N004 N005 ADP1764 Radj=6020.07
.tran 1m startup
.lib ADP7102.lib
.backanno
.end
